US06780996B2
A reaction mixture of 0.3 g (1.01 mmol) of 6-methoxy-7-(4-methyl-piperazin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carbonitrile in 5 mL of phosphorus oxychloride is heated at 105° C. for 45 minutes. After cooling, the mixture is concentrated to dryness in vacuo to give a brown solid. To this is added 5 mL toluene, and the solution is concentrated to dryness again. Dropwise, an ice-cooled saturated aqueous sodium carbonate solution is added to the residue. This mixture is extracted with 5×25 mL of a 95:5 mixture of methylene chloride/methanol. The organic layer is dried over magnesium sulfate. The magnesium sulfate is removed by filtration, and solvent is removed in vacuo to provide 0.255 g of 4-chloro-6-methoxy-7-(4-methylpiperazin-1-yl)-quinoline-3-carbonitrile as a yellow solid, mp 177-179° C.

reactant | 6-methoxy-7-(4-methyl-piperazin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carbonitrile | 1.01 mmol, 0.3 g | COC=1C=C2C(C(=CNC2=CC1N1CCN(CC1)C)C#N)=O | C16H18N4O2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-methoxy-7-(4-methylpiperazin-1-yl)-quinoline-3-carbonitrile | 0.255 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)N1CCN(CC1)C)C#N | C16H17ClN4O
